US06544985B2
(RS)-[4-Chloro-5-isopropylamino-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester (Example J40) (300 mg, 1.0 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K5) (401 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (375 mg, 60%).

reactant | (2-amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 300 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)N)=O | C14H22ClN3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 1.0 mmol, 401 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[4-Chloro-5-isopropylamino-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C31H39ClN6O6
